* Z:\mnt\design.r\spice\examples\3486.asc
V1 N001 0 4
XU1 N002 N001 N003 N006 N005 N008 N004 N007 MP_01 MP_02 MP_03 MP_04 N001 MP_05 N004 MP_06 0 LT3486
L1 N001 N002 10µ
D1 N002 N003 MBR0530L
C1 N003 0 2.2µ
C2 0 N005 .01µ
R1 N008 0 8.06
D2 N003 N009 LXHL-BW02
R2 N006 0 63.4K
C3 0 N004 .1µ
M§Q1 N009 N007 N008 N008 FDS6961A
V2 N007 0 PULSE(0 5 0 1u 1u 50u 100u)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
.lib LT3486.sub
.backanno
.end
